US07320986B2
phenyl 4-cyanobenzoate
4-Cyano-benzoic acid (10.0 g, 68.0 mmol), phenol (6.40 g, 68.0 mmol), DCC (14.73 g, 71.4 mmol), DMAP (0.25 g, 2.04 mmol) and ether (200 mL) were mixed, and stirred at room temperature for 3 days. Ether was removed. To the residue was added CH2Cl2 (200 mL). The solid was filtered. The filtrate was concentrated, and purified by flash chromatography to give the desired product (12.41 g, 82%). MS (DCI/NH3) m/z 224 (M+H)+; 1H NMR (300 MHz, CDCl3) δ ppm 7.19-7.25 (m, 2H) 7.31 (m, 1H) 7.41-7.50 (m, 2H) 7.807.85 (m, 2H) 8.29-8.34 (m, 2H).

reactant | 4-Cyano-benzoic acid | 68.0 mmol, 10.0 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | phenol | 68.0 mmol, 6.40 g | C1(=CC=CC=C1)O | C6H6O
reactant | DCC | 71.4 mmol, 14.73 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 2.04 mmol, 0.25 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ether | 200 mL | CCOCC | C4H10O
product | phenyl 4-cyanobenzoate | 12.41 g, 82% | C(#N)C1=CC=C(C(=O)OC2=CC=CC=C2)C=C1 | C14H9NO2
